US05236937
Methyl 4-amino-2,6-diethylpyridine-3-carboxylate (3.94 g), itself obtained using an analogous procedure to that described in Example 2B but starting from 3-amino-2-pentenenitrile (obtained a described in J. Het. Chem., 1989, 26, 1575) and methyl propionylacetate, was added to a mixture of 2M sodium hydroxide solution (9.5 ml) and methanol (40 ml) and the mixture was heated at reflux for 16 hours. The solution was cooled to ambient temperature and volatile material was removed by evaporation. The residue was partitioned between ethyl acetate and a mixture of 2M hydrochloric acid (9.5 ml) and water (20 ml). The aqueous phase was separated, water was removed by evaporation and the residue was extracted with ethyl acetate/methanol (1:1 v/v). The combined organic extracts were filtered and solvent was removed from the filtrate by evaporation to give 4-amino-2,6-diethylpyridine-3-carboxylic acid (3.46 g) as a yellow-brown foam; NMR (d6 -DMSO): 1.18(m,6H), 2.64(q,2H), 3.12(q,2H), 6.49(s,1H), 8.28(broad s,2H),; mass spectrum (chemical ionisation, ammonia): 195(M+H)+.

reactant | 3-amino-2-pentenenitrile | NC(=CC#N)CC | C5H8N2
reactant | methyl propionylacetate | C(CC)(=O)CC(=O)OC | C6H10O3
reactant | sodium hydroxide | 2M, 9.5 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 4-amino-2,6-diethylpyridine-3-carboxylic acid | 3.46 g | NC1=C(C(=NC(=C1)CC)CC)C(=O)O | C10H14N2O2
